US07902203B2
methyl 4-[(2-ethylbutyl)amino]-2-(methylthio)pyrimidine-5-carboxylate
Ethyl 4-chloro-2-methylthio-5-pyrimidinecarboxylate (0.40 g, 1.72 mmol) was reacted with 1-amino-2-ethyl butane (0.175 g, 1.72 mmol) and triethylamine (0.60 mL, 4.32 mmol) at ambient temperature for 18 hours. The reaction was partitioned between water and dichloromethane. The organic layer was dried over sodium sulfate, filtered, and the concentrated to give the title compound (0.50 g, 98%).

reactant | Ethyl 4-chloro-2-methylthio-5-pyrimidinecarboxylate | 1.72 mmol, 0.40 g | ClC1=NC(=NC=C1C(=O)OCC)SC | C8H9ClN2O2S
reactant | 1-amino-2-ethyl butane | 1.72 mmol, 0.175 g | NCC(CC)CC | C6H15N
reactant | triethylamine | 4.32 mmol, 0.60 mL | C(C)N(CC)CC | C6H15N
product | methyl 4-[(2-ethylbutyl)amino]-2-(methylthio)pyrimidine-5-carboxylate | 0.50 g, 98% | C(C)C(CNC1=NC(=NC=C1C(=O)OC)SC)CC | C13H21N3O2S
